US04313949
2-Amino-3-benzoyl-phenylacetamide
To an agitated solution of 9.7 g (0.032 mole) of 2-amino-3-benzoyl-α-(methylthio)-phenylacetamide in 100 ml of tetrahydrofuran was added 80 g of wet Raney nickel (washed 3 times with water and 3 times with tetrahydrofuran). After 10 minutes the mixture was filtered to remove Raney nickel and the filtrate concentrated under vacuum. The residue was crystallized from isopropyl alcohol to give 6.0 g (73%) of yellow needles, m.p. 178.5°-180.0° C.

reactant | 2-amino-3-benzoyl-α-(methylthio)-phenylacetamide | 0.032 mole, 9.7 g | NC1=C(C=CC=C1C(C1=CC=CC=C1)=O)C(C(=O)N)SC | C16H16N2O2S
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | Raney nickel | 80 g | [Ni] | Ni
product | 2-Amino-3-benzoyl-phenylacetamide | 6.0 g, 73% | NC1=C(C=CC=C1C(C1=CC=CC=C1)=O)CC(=O)N | C15H14N2O2
